US08008505B2
24.8 [rac]-2-[2-(4-Chloro-phenyl)-5,6-difluoro-2H-indazol-3-yl]-2,N-dicyclohexyl-acetamide
In analogy to the procedure described in example 6, [rac]-[2-(4-chloro-phenyl)-5,6-difluoro-2H-indazol-3-yl]-cyclohexyl-acetic acid was converted into the corresponding acid chloride with thionyl chloride which subsequently reacted with cyclohexylamine (CAS Reg. No. 108-91-8) in the presence of DMAP to give the title compound as off-white solid. MS: m/e=486.4 [M+H+].

reactant | [rac]-[2-(4-chloro-phenyl)-5,6-difluoro-2H-indazol-3-yl]-cyclohexyl-acetic acid | ClC1=CC=C(C=C1)N1N=C2C=C(C(=CC2=C1C(C(=O)O)C1CCCCC1)F)F | C21H19ClF2N2O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | [rac]-2-[2-(4-Chloro-phenyl)-5,6-difluoro-2H-indazol-3-yl]-2,N-dicyclohexyl-acetamide | ClC1=CC=C(C=C1)N1N=C2C=C(C(=CC2=C1C(C(=O)NC1CCCCC1)C1CCCCC1)F)F | C27H30ClF2N3O
